US04760163
using isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)-4,5-dihydro-thien-3-yl]ureido}-benzoate with sodium isopropylate in an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-4-fluoro-5-{1,4,6,7-tetrahydro-2,4-dioxo-thieno[3,2-d]pyrimidin-3(2H)-yl}-benzoate, m.p. 252°-254° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)-4,5-dihydro-thien-3-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC1=C(SCC1)C(=O)OC | C17H18ClFN2O5S
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-4-fluoro-5-{1,4,6,7-tetrahydro-2,4-dioxo-thieno[3,2-d]pyrimidin-3(2H)-yl}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC2=C(C1=O)SCC2)=O | C16H14ClFN2O4S
